US04330292
First step: Preparation of 2-acetylamino-4-nitrophenyl β-N,N-diethylaminoethyl ether
117 g (0.5 mol) of 2-acetylamino-4-nitrophenol, in the form of the potassium salt, are introduced into 350 ml of dimethylformamide and the mixture is then heated to 60° C., whilst stirring. 88.2 g (0.65 mol) of diethylaminoethyl chloride are then added; the reaction medium is heated at 95° C. for 150 minutes and is then poured into 1,500 ml of iced water; the expected product precipitates. This product is filtered off and washed with a 0.5 N sodium carbonate solution and then with water. After filtration, the product is finally dried in vacuo at 45° C. It melts at 117° C.

reactant | 2-acetylamino-4-nitrophenol | 0.5 mol, 117 g | C(C)(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | potassium | [K] | K
reactant | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
reactant | diethylaminoethyl chloride | 0.65 mol, 88.2 g | C(C)N(CC)CCCl | C6H14ClN
solvent | water | 1,500 ml | O | H2O
product | 2-acetylamino-4-nitrophenyl β-N,N-diethylaminoethyl ether | C(C)N(CC)CCOC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C14H21N3O4
